US08076486B2
[4-(5-Amino-4H-[1,2,4]triazol-3-yl)-pyridin-3-yl]-(2-fluoro-4-iodo-phenyl)-amine
A reaction mixture of 3-(2-Fluoro-4-iodo-phenylamino)-isonicotinic acid hydrazide (100 mg, 0.27 mmol, 1 eq) and C-Methylsulfanyl-methanediamine hydroiodide (86 mg, 0.39 mmol, 1.45 eq) in pyridine (2 mL) in a sealed tube was heated at 140° C. for 4 hrs. After cooling the mixture was poured into water, extracted with EtOAc, and the combined organic fractions were dried over anhydrous MgSO4. After filtration and solvent evaporation the resulting residue was subjected to silica gel column chromatography (EtOAC:Hex=1:1) to give the desired product (46 mg). [4.99 min; 397(M+1)]

reactant | 3-(2-Fluoro-4-iodo-phenylamino)-isonicotinic acid hydrazide | 0.27 mmol, 100 mg, 1 eq | FC1=C(C=CC(=C1)I)NC1=C(C(=O)NN)C=CN=C1 | C12H10FIN4O
reactant | C-Methylsulfanyl-methanediamine hydroiodide | 0.39 mmol, 86 mg, 1.45 eq | I.CSC(N)N
reactant | water | O | H2O
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | [4-(5-Amino-4H-[1,2,4]triazol-3-yl)-pyridin-3-yl]-(2-fluoro-4-iodo-phenyl)-amine | 46 mg | NC=1NC(=NN1)C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)F | C13H10FIN6
